US06642386B2
A solution of 2.5 g (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-(1-methyl-piperidin-4-yloxy)-phenyl]-acetic acid ethyl ester hydrochloride described in example 13.2 in 50 ml dichloromethane was treated with 1.1 g di-tert-butyl dicarbonate, 25 ml water and 25 ml saturated aqueous sodium carbonate solution. The reaction mixture was stirred at room temperature for 2 hrs. Extraction with ethyl acetate, water and brine, followed by chromatography on silica gel with dichloromethane/methanol gave 2.3 g (RS)-[4-(tert-butoxycarbonylamino-imino-methyl)-phenylamino]-[5-ethoxy-2-fluoro-3-(1-methyl-piperidin-4-yloxy)-phenyl]-acetic acid ethyl ester as a light yellow foam. MS: 573 ([M+H]+).

reactant | (RS)-(4-carbamimidoyl-phenylamino)-[5-ethoxy-2-fluoro-3-(1-methyl-piperidin-4-yloxy)-phenyl]-acetic acid ethyl ester hydrochloride | 2.5 g | Cl.C(C)OC(C(C1=C(C(=CC(=C1)OCC)OC1CCN(CC1)C)F)NC1=CC=C(C=C1)C(N)=N)=O
reactant | di-tert-butyl dicarbonate | 1.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 25 ml | O | H2O
reactant | sodium carbonate | 25 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (RS)-[4-(tert-butoxycarbonylamino-imino-methyl)-phenylamino]-[5-ethoxy-2-fluoro-3-(1-methyl-piperidin-4-yloxy)-phenyl]-acetic acid ethyl ester | 2.3 g | C(C)OC(C(C1=C(C(=CC(=C1)OCC)OC1CCN(CC1)C)F)NC1=CC=C(C=C1)C(=N)NC(=O)OC(C)(C)C)=O | C30H41FN4O6
